US06362203B1
In 50 mL of anhydrous dimethylformamide were dissolved 2.24 g (6.7 mmol) of methyl 4-bromo-2,2-diphenylbutyrate and 1.30 g (6.7 mmol) of 4-(2-hydroxyphenyl)-4-piperidinol. To the resulting solution was added 1.07 g (10 mmol) of sodium carbonate, followed by stirring under heating at 50° C. for 35 hours. The residue obtained by distilling off the solvent under reduced pressure was dissolved in ethyl acetate, followed by washing with water and drying. The residue obtained by concentrating the solvent under reduced pressure was purified by chromatography on a silica gel column, whereby 870 mg (yield: 29.2%) of methyl 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-2,2-diphenylbutyrate was obtained.

reactant | methyl 4-bromo-2,2-diphenylbutyrate | 6.7 mmol, 2.24 g | BrCCC(C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17BrO2
reactant | 4-(2-hydroxyphenyl)-4-piperidinol | 6.7 mmol, 1.30 g | OC1=C(C=CC=C1)C1(CCNCC1)O | C11H15NO2
reactant | sodium carbonate | 10 mmol, 1.07 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-2,2-diphenylbutyrate | 870 mg, yield: 29.2% | OC1(CCN(CC1)CCC(C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)O | C28H31NO4
